US06855710B2
a) 1-benzoyl-3-(1-hydroxy-1-phenyl-methylidene)-2-indolinone
26.6 g (0.2 mol) of 2-indolinone and 53.8 g (0.44 mol) of 4-dimethylamino-pyridine are dissolved in 400 ml of DMF and after the addition of 30.9 g (0.22 mol) of benzoylchloride in 100 ml of DMF stirred for 45 minutes at 45° C. The solution is poured onto 3 l of water and 100 ml of conc. hydrochloric acid, the precipitate formed is suction filtered, recrystallised from glacial acetic acid and dried.

reactant | 2-indolinone | 0.2 mol, 26.6 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | benzoylchloride | 0.22 mol, 30.9 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 3 l | O | H2O
reactant | hydrochloric acid | 100 ml | Cl | ClH
catalyst | 4-dimethylamino-pyridine | 0.44 mol, 53.8 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-benzoyl-3-(1-hydroxy-1-phenyl-methylidene)-2-indolinone | C(C1=CC=CC=C1)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)O)=O | C22H15NO3
